US06114390
a) (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[(4-hydroxyphenyl)acetyl]-ornithinamide
Prepared analogously to Example 14c) from 4-hydroxybenzene acetic acid, (R)-N-[[4-(aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-ornithinamidehydrochloride and TBTU in a yield of 90% of theory. Colourless crystals, Mp. 168-170° C.

reactant | 4-hydroxybenzene acetic acid | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | (R)-N-[[4-(aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-ornithinamidehydrochloride | Cl.NC(=O)NCC1=CC=C(C=C1)CNC([C@H](N)CCCNC(=N[N+](=O)[O-])N)=O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
product | (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[(4-hydroxyphenyl)acetyl]-ornithinamide | yield of 90% | NC(=O)NCC1=CC=C(C=C1)CNC([C@H](NC(CC1=CC=C(C=C1)O)=O)CCCNC(=N[N+](=O)[O-])N)=O | C23H30N8O6
